US04614745
2.94 g (0.024 mol) of oxalic acid monomethyl ester chloride are added to a solution of 5.05 g (0.0216 mol) of 3-amino-6-(n-butyl)-4H-1-benzothiopyran-4-one and 2.4 g (0.024 mol) of triethylamine in 325 ml of chloroform, the temperature of the reaction mixture rising to 30°. The mixture is then stirred for one hour at room temperature. The mixture is then concentrated to dryness by evaporation and the crystalline residue is stirred with ethanol, filtered with suction and washed first with ethanol and then with ether. After drying, N-[6-(n-butyl)-4H-1-benzothiopyran-4-on-3-yl]-oxalic acid amide methyl ester having a melting point of 192°-193.5° is obtained.

reactant | oxalic acid monomethyl ester chloride | 0.024 mol, 2.94 g | [Cl-].COC(C(=O)O)=O
reactant | 3-amino-6-(n-butyl)-4H-1-benzothiopyran-4-one | 0.0216 mol, 5.05 g | NC1=CSC2=C(C1=O)C=C(C=C2)CCCC | C13H15NOS
reactant | triethylamine | 0.024 mol, 2.4 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 325 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[6-(n-butyl)-4H-1-benzothiopyran-4-on-3-yl]-oxalic acid amide methyl ester | COC(C(=O)NC1=CSC2=C(C1=O)C=C(C=C2)CCCC)=O | C16H17NO4S
